US06455521B1
In the same manner as in Starting Material Synthesis Example 4 and using ethyl 2-aminobenzo[b]thiophene-3-carboxylate (6.0 g), 2,4,5-trichloronitrobenzene (6.8 g) and dimethyl sulfoxide (70 ml), crude crystals (10.3 g) of ethyl 2-(4,5-dichloro-2-nitroanilino)benzo[b]thiophene-3-carboxylate were obtained. Without purification, in the same manner as in Starting Material Synthesis Example 21 and using ethanol (100 ml), 18%hydrochloric acid (100 ml) and tin(II) chloride-dihydrate (22.8 g), ethyl 2-(2-amino-4,5-dichloroanilino)benzo[b]thiophene-3-carboxylate (5.3 g) was obtained.

reactant | ethyl 2-aminobenzo[b]thiophene-3-carboxylate | 6.0 g | NC1=C(C2=C(S1)C=CC=C2)C(=O)OCC | C11H11NO2S
reactant | 2,4,5-trichloronitrobenzene | 6.8 g | ClC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | ethyl 2-(4,5-dichloro-2-nitroanilino)benzo[b]thiophene-3-carboxylate | ClC1=CC(=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=C1Cl)[N+](=O)[O-] | C17H12Cl2N2O4S
reactant | hydrochloric acid | 100 ml | Cl | ClH
reactant | tin(II) chloride-dihydrate | 22.8 g | O.O.[Sn](Cl)Cl
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | dimethyl sulfoxide | 70 ml | CS(=O)C | C2H6OS
product | ethyl 2-(2-amino-4,5-dichloroanilino)benzo[b]thiophene-3-carboxylate | 5.3 g | NC1=C(NC2=C(C3=C(S2)C=CC=C3)C(=O)OCC)C=C(C(=C1)Cl)Cl | C17H14Cl2N2O2S
